US07470709B2
Using a literature procedure described in the following literature reference which is herein incorporated by reference in its entirety for all purposes as if fully set forth herein, a dry round bottom flask was charged with 2-amino-5-bromo benzonitrile (1 equivalent) and zinc cyanide (2 equivalents), and DMF was added: J. Med. Chem. 2000, 43, 4063. Nitrogen was bubbled through the solution for 5 minutes, and Pd[P(Ph)3]4 was added in one portion. The reaction mixture was stirred at 90° C. overnight. After cooling to room temperature, saturated NaHCO3 was added, and the mixture was extracted with EtOAc. The organic extracts were collected and dried (Na2SO4). Evaporation of the solvent under reduced pressure and purification by column chromatography on silicagel (2% methanol in methylene chloride) afforded the desired 4-aminobenzene-1,3-dicarbonitrile as a white solid. GC/MS m/z: 143 (M+, 100%), Rt 14.7 minutes

reactant | 2-amino-5-bromo benzonitrile | 1 equivalent | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 2 equivalents | [C-]#N.[Zn+2].[C-]#N
product | 4-aminobenzene-1,3-dicarbonitrile | NC1=C(C=C(C=C1)C#N)C#N | C8H5N3
